US09376442B2
tert-Butyl [(1R*,3S*,4R*)-4-(benzyloxy)-3-methylcyclohexyl]carbamate
Known (1R*,2S*,4R*)-4-azido-2-methylcyclohexyl benzyl ether (12.0 g; 48.9 mmol) [Aicher, T.; Chicarelli, M. J.; Hinklin, R. J.; Tian, H.; Wallace, O. B.; Chen, Z.; Mabry, T. E.; McCowan, J. R.; Snyder, N. J.; Winneroski, L. L.; Allen, J. G.; WO 2006/049952 (2009)] is dissolved in MeOH (500.0 mL) and pressure hydrogenated over Pd (10% on charcoal; 1.2 g) at 20 bar and ambient temperature for two hours. The catalyst is removed by filtration through a pad of celite. The filtrate is concentrated under reduced pressure. The residue is dissolved in dioxane (100 mL). After addition of 2N NaOH (25.0 mL; 50.0 mmol) and di tert-butyl dicarbonate (11.4 g; 51.3 mmol) the mixture is stirred for one hour at ambient temperature and concentrated under reduced pressure. After addition of water and extraction with tert-BuOMe the organic layer is dried over MgSO4. The solvent is removed under reduced pressure and the residue is chromatographed on silica gel (cyclohexane/AcOEt—9:1) to yield 14.4 g of the title compound as colourless oil.

reactant | (1R*,2S*,4R*)-4-azido-2-methylcyclohexyl benzyl ether | 48.9 mmol, 12.0 g | C(C1=CC=CC=C1)O[C@H]1[C@H](C[C@@H](CC1)N=[N+]=[N-])C | C14H19N3O
reactant | NaOH | 50.0 mmol, 2N, 25.0 mL | [OH-].[Na+]
reactant | di tert-butyl dicarbonate | 51.3 mmol, 11.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 500.0 mL | CO | CH4O
catalyst | Pd | 1.2 g | [Pd] | Pd
product | tert-Butyl [(1R*,3S*,4R*)-4-(benzyloxy)-3-methylcyclohexyl]carbamate | 14.4 g | C(C1=CC=CC=C1)O[C@H]1[C@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C19H29NO3
